US07091352B2
2) (±)-5-(4-Fluorophenyl)-3-(7-hydroxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-yl)-4-(pyridin-4-yl)pyrazole
3-Bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (3.18 g (10 mmol), prepared as described in 1)) was dissolved in tetrahydrofuran (32 ml). To the solution was added a solution of 1.6 M butyl lithium/hexane (13.75 ml, 13.75 mmol) at −78° C., and the resulting mixture was stirred for 10 minutes. To the mixture was added 1,2,3,5,6,7,8,8a-octahydroindolizin-7-one (1.53 g, 11 mmol) at −78° C., and the resulting mixture was stirred first at −78° C. for 2 hours, then at room temperature for 1 hour. At the end of this time, the reaction mixture was added to a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel (eluent, ethyl acetate:methanol:isopropylamine=20:1:1), to give the title compound (830 mg) as a pale yellow powder (yield 22%).

reactant | 3-Bromo-5-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 10 mmol, 3.18 g | BrC1=NNC(=C1C1=CC=NC=C1)C1=CC=C(C=C1)F | C14H9BrFN3
reactant | butyl lithium hexane | 13.75 mmol, 1.6 M, 13.75 ml | C(CCC)[Li].CCCCCC
reactant | 1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 11 mmol, 1.53 g | C1CCN2CCC(CC12)=O | C8H13NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 32 ml | O1CCCC1 | C4H8O
product | (±)-5-(4-Fluorophenyl)-3-(7-hydroxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-yl)-4-(pyridin-4-yl)pyrazole | 830 mg, yield 22% | FC1=CC=C(C=C1)C1=C(C(=NN1)C1(CCN2CCCC2C1)O)C1=CC=NC=C1 | C22H23FN4O
